Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:8]([H:9])[H:10].[H:7],4.8551372953500005
[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][O:3][H:4],1.62814397965
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.4675934610900003
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.02105736732
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.779517155471
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.664865442581
[C:3]([H:4])[H:5].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])[H:5],-3.57188151
[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2][O:3][C:4][H:5].[O:6][H:7],6.337913126980001
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([C:3])([H:11])[C:12](/[C:9](=[C:8]/[C:4]([H:5])([H:6])[H:7])[H:10])([H:13])[H:14],4.21368319738
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.90140130136
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11],2.21935501583
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],4.1671642355900005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])=[O:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.5831665837510001
[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](=[O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],0.822932500001
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[O:9]>>[H:1][C:2]([H:3])[C:4][C@:5]12[O:6][C@:7]1([H:8])[O:9]2,1.15003229797
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][H:11].[H:8],2.96108589667
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:11][H:12],4.61055456178
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[O:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],0.548920260268
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][O:2][C:3][H:4],6.74033098165
[H:1][C:2]([H:3])=[C:4]1[O:5][O:6][C:7]([H:8])=[C:9]1[H:10]>>[H:1][C:2]([H:3])=[C:4]([O:5][O:6])[C:9](=[C:7][H:8])[H:10],3.55933711215
[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4](=[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.60100939456
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.8187368713709999
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([O:8][H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.53964436977
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5],0.448531946857
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],4.57101646219
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.7377459575999998
[H:3].[O:1]=[C:2](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.644607834107
[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.52913584046
[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.60432909
